.title KiCad schematic
JP2 /SDA /SCL /D5 /D6 /D9 /D10 /D11 /D12 /D13 NC_01 NC_02 NC_03 Conn_01x12_Female
JP1 GND /D1 /D0 /MISO /MOSI NC_04 /A5 /A4 /A3 /A2 /A1 /A0 GND NC_05 +3V3 NC_06 Conn_01x16_Female
C1 /A0 Net-_C1-Pad2_ 10u
R1 Net-_C1-Pad2_ GND 47k
R2 Net-_C6-Pad2_ Net-_C1-Pad2_ 6k8
U1 Net-_C6-Pad1_ Net-_C6-Pad2_ GND -12V Net-_C5-Pad2_ GND Net-_C5-Pad1_ +12V TL072
R8 Net-_C6-Pad2_ Net-_C6-Pad1_ 47k
C6 Net-_C6-Pad1_ Net-_C6-Pad2_ 18p
C2 /A1 Net-_C2-Pad2_ 10u
R3 Net-_C2-Pad2_ GND 47k
R4 Net-_C5-Pad2_ Net-_C2-Pad2_ 6k8
R7 Net-_C5-Pad2_ Net-_C5-Pad1_ 47k
C5 Net-_C5-Pad1_ Net-_C5-Pad2_ 18p
R11 Net-_C5-Pad1_ /CVO2 1k
R12 Net-_C6-Pad1_ /CVO1 1k
J4 GND /CVO1 NC_07 Thonkiconn
J3 GND /CVO2 NC_08 Thonkiconn
C3 GND +12V 100n
C4 GND -12V 100n
C8 /A2 Net-_C8-Pad2_ 18p
U4 /A3 GND GND Net-_C9-Pad2_ +3V3 MCP6001T-E/OT 
R23 Net-_C9-Pad2_ /A3 82k
C9 /A3 Net-_C9-Pad2_ 18p
R21 /-10Ref Net-_C9-Pad2_ 510k
R20 /CVI2 Net-_C9-Pad2_ 100k
J8 GND /CVI2 GND Thonkiconn
R17 /-10Ref -12V 2k2
C7 GND /-10Ref 100n
J7 GND /CVI1 GND Thonkiconn
R18 /CVI1 Net-_C8-Pad2_ 100k
R19 /-10Ref Net-_C8-Pad2_ 510k
R22 Net-_C8-Pad2_ /A2 82k
U3 /A2 GND GND Net-_C8-Pad2_ +3V3 MCP6001-OT
U8 GND /D13 Net-_R31-Pad1_ GND /D12 Net-_R32-Pad1_ GND Net-_R33-Pad1_ /D10 GND Net-_R34-Pad1_ /D11 GND +5V 74LS125
R31 Net-_R31-Pad1_ /GO1 1k
J11 GND /GO1 NC_09 Thonkiconn
R32 Net-_R32-Pad1_ /GO2 1k
J12 GND /GO2 NC_10 Thonkiconn
R33 Net-_R33-Pad1_ /GO3 1k
J13 GND /GO3 NC_11 Thonkiconn
R34 Net-_R34-Pad1_ /GO4 1k
J14 GND /GO4 NC_12 Thonkiconn
R24 /10Ref GND 2k2
C10 +12V /10Ref 100n
RV1 /10Ref Net-_R36-Pad1_ /-10Ref R_POT
RV2 /10Ref Net-_R37-Pad1_ /-10Ref R_POT
C11 /A4 Net-_C11-Pad2_ 18p
U7 /A5 GND GND Net-_C12-Pad2_ +3V3 MCP6001T-E/OT 
R30 Net-_C12-Pad2_ /A5 82k
C12 /A5 Net-_C12-Pad2_ 18p
R28 /-10Ref Net-_C12-Pad2_ 510k
R27 /CVI4 Net-_C12-Pad2_ 100k
J10 GND /CVI4 GND Thonkiconn
J9 GND /CVI3 GND Thonkiconn
R25 /CVI3 Net-_C11-Pad2_ 100k
R26 /-10Ref Net-_C11-Pad2_ 510k
R29 Net-_C11-Pad2_ /A4 82k
U6 /A4 GND GND Net-_C11-Pad2_ +3V3 MCP6001T-E/OT 
RV3 /10Ref Net-_R38-Pad1_ /-10Ref R_POT
Q1 Net-_Q1-Pad1_ GND /D6 MMBT3904
R5 /GI1 Net-_Q1-Pad1_ 100k
J1 GND /GI1 NC_13 Thonkiconn
R9 +3V3 /D6 10k
Q2 Net-_Q2-Pad1_ GND /D5 MMBT3904
R6 /GI2 Net-_Q2-Pad1_ 100k
J2 GND /GI2 NC_14 Thonkiconn
R10 +3V3 /D5 10k
Q3 Net-_Q3-Pad1_ GND /D1 MMBT3904
R13 /GI3 Net-_Q3-Pad1_ 100k
J5 GND /GI3 NC_15 Thonkiconn
R15 +3V3 /D1 10k
Q4 Net-_Q4-Pad1_ GND /D0 MMBT3904
R14 /GI4 Net-_Q4-Pad1_ 100k
J6 GND /GI4 NC_16 Thonkiconn
R16 +3V3 /D0 10k
D1 +5V Net-_D1-Pad2_ GND Net-_D1-Pad4_ WS2812B
D2 +5V Net-_D2-Pad2_ GND Net-_D1-Pad2_ WS2812B
D3 +5V Net-_D3-Pad2_ GND Net-_D2-Pad2_ WS2812B
D4 +5V NC_17 GND Net-_D3-Pad2_ WS2812B
C14 +3V3 GND 100n
C15 +3V3 GND 100n
C16 +3V3 GND 100n
C17 +3V3 GND 100n
C18 +5V GND 100n
C13 +5V GND 100n
R35 Net-_D1-Pad4_ /D9 100R
J15 Net-_D6-Pad2_ Net-_D6-Pad2_ GND GND GND GND GND GND Net-_D5-Pad2_ Net-_D5-Pad2_ Conn_02x05_Odd_Even
C19 +12V GND 10u
C20 +5V GND 10u
C21 +5V GND 100n
RV4 /10Ref Net-_R39-Pad1_ /-10Ref R_POT
R36 Net-_R36-Pad1_ Net-_C8-Pad2_ 510k
R38 Net-_R38-Pad1_ Net-_C11-Pad2_ 510k
R37 Net-_R37-Pad1_ Net-_C9-Pad2_ 510k
R39 Net-_R39-Pad1_ Net-_C12-Pad2_ 510k
J16 +3V3 GND /SDA /SCL /MOSI /MISO Conn_02x03_Odd_Even
U9 GND +5V +12V AMS1117-5.0
U2 GND /-10Ref LM4040DIM3-10.0/NOPB
U5 +12V /10Ref LM4040DIM3-10.0/NOPB
D6 -12V Net-_D6-Pad2_ US1M
D5 +12V Net-_D5-Pad2_ US1M
.end
